US05071982
On the other hand, in the latter process, 4-chloro-6-hydroxy-2-methylthiopyrimidine as the starting material is first reacted with monochlorodifluoromethane to obtain 4-chloro-6-difluoromethoxy-2-methylthiopyrimidine, then this product was reacted with sodium nitrite in dimethylformamide t obtain 4-hydroxy-6-difluoromethoxy-2-methylthiopyrimidine, which is further reacted with monochlorodifluoromethane in dioxane in the presence of potassium hydroxide to obtain desired 4,6-bis(difluoromethoxy)-2-methylthiopyrimidine at a yield of 50%. However, this process also involves long process steps and is very cumbersome, and as such, it is not suitable as an industrial process.

reactant | 4-chloro-6-hydroxy-2-methylthiopyrimidine | ClC1=NC(=NC(=C1)O)SC | C5H5ClN2OS
reactant | monochlorodifluoromethane | ClC(F)F | CHClF2
product | 4-chloro-6-difluoromethoxy-2-methylthiopyrimidine | ClC1=NC(=NC(=C1)OC(F)F)SC | C6H5ClF2N2OS
